US09447091B2
a) Ethyl 2-morpholinoacetate
To a solution of morpholine (0.5 g, 5.739 mmol, 1.0 eq) in DMF were added K2CO3 (1.98 g, 14.34 mmol, 2.5 eq.) and ethyl 2-chloroacetate (1.05 g, 8.60 mmol, 1.5 eq.). The mixture was stirred at RT for 12 h. The mixture was quenched and extracted as in Intermediate Example 5(a). The solvent was distilled off to afford the product in 73.9% yield (0.735 g). LC-MS (ESI): Calculated mass: 173.21; Observed mass 174.0 [M+H]+ (rt: 0.1-0.4 min).

reactant | morpholine | 5.739 mmol, 0.5 g, 1.0 eq | N1CCOCC1 | C4H9NO
reactant | K2CO3 | 14.34 mmol, 1.98 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl 2-chloroacetate | 8.60 mmol, 1.05 g, 1.5 eq. | ClCC(=O)OCC | C4H7ClO2
solvent | DMF | CN(C)C=O | C3H7NO
product | Ethyl 2-morpholinoacetate | 73.9% yield | O1CCN(CC1)CC(=O)OCC | C8H15NO3
